### PR TITLE
[Merged by Bors] - feat(NumberTheory): Abel summation

### PR DESCRIPTION
**Pull request by xroblot**
Proof of several versions of Abel summation formula. 

This PR is part of the proof of the Analytic Class Number Formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 1]
```diff
@@ -0,0 +1,174 @@
...
+  when the first coefficient of the sequence is `0`. This is useful for `ArithmeticFunction`.
+
+## References
+
+* <https://en.wikipedia.org/wiki/Abel%27s_summation_formula>
+
+-/
+
+/-!
+# Docstring
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/AbelSummation.lean:31]: Comment

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 2]
```diff
@@ -0,0 +1,174 @@
...
+    ∑ k ∈ Icc 0 ⌊b⌋₊, f k * c k =
+      f b * (∑ k ∈ Icc 0 ⌊b⌋₊, c k) - ∫ t in Set.Ioc 1 b, deriv f t * (∑ k ∈ Icc 0 ⌊t⌋₊, c k) := by
+  obtain hb | hb := le_or_gt 1 b
+  · have : 1 ≤ ⌊b⌋₊ := (Nat.one_le_floor_iff _).mpr hb
+    nth_rewrite 1 [Finset.Icc_eq_cons_Ioc (by linarith), sum_cons, ← Nat.Icc_succ_left,
+      Finset.Icc_eq_cons_Ioc (by linarith), sum_cons]
+    rw [Nat.succ_eq_add_one, zero_add, ← Nat.floor_one (α := ℝ), sum_mul_eq_sub_sub_integral_mul c
+      zero_le_one hb hf_diff hf_int, Nat.floor_one, Nat.cast_one, Finset.Icc_eq_cons_Ioc
+      zero_le_one, sum_cons, show 1 = 0 + 1 by rfl, Nat.Ioc_succ_singleton, zero_add, sum_singleton,
+      hc, mul_zero, zero_add]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/AbelSummation.lean:171]:
```suggestion
    rw [Nat.succ_eq_add_one, zero_add, ← Nat.floor_one (α := ℝ),
      sum_mul_eq_sub_sub_integral_mul c zero_le_one hb hf_diff hf_int, Nat.floor_one, Nat.cast_one,
      Finset.Icc_eq_cons_Ioc zero_le_one, sum_cons, ← zero_add (1 : ℕ), Nat.Ioc_succ_singleton,
      zero_add, sum_singleton, hc, mul_zero, zero_add]
```

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 3]
```diff
@@ -0,0 +1,174 @@
...
+Copyright (c) 2024 Xavier Roblot. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Xavier Roblot
+-/
+import Mathlib.MeasureTheory.Integral.FundThmCalculus
+
+/-!
+# Abel's summation formula
+
+We prove several versions of Abel's summation formula.
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/AbelSummation.lean:11]: Note that these are only for a sum of complex numbers; I didn't manage to derive the real version. (Is differentiability actually hard when you throw in the coercion from Real to Complex or am I bad at searching the library?)

Maybe these results should be namespaced under `Complex` to leave room for the real ones when we add them

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/AbelSummation.lean:11]: I would suggest treating the real and complex version simultaneously using `RCLike`. If you assume `{𝕜 : Type*} [RCLike 𝕜] {f : ℝ → 𝕜} (c : ℕ → 𝕜)` then Xavier's proof works without any change at all.

(Probably it would work with vector-valued functions too, but that would be more awkward to formulate. I managed to get the proof working for `f` valued in an `RCLike 𝕜` and `c` valued in a general normed `𝕜`-vector space, modulo one `sorry` since `IntervalIntegrable.smul_const` doesn't exist; but the asymmetry is annoying, why should it be `c` that is vector-valued and not `f`?)

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/AbelSummation.lean:31]: You've marked this as resolved, but I think Ruben was trying to point out that you have a docstring in your code consisting of the word "docstring" (which is still there).

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean:11]: > I would suggest treating the real and complex version simultaneously using `RCLike`. If you assume `{𝕜 : Type*} [RCLike 𝕜] {f : ℝ → 𝕜} (c : ℕ → 𝕜)` then Xavier's proof works without any change at all.

I am always so amazed by Lean when things work that smoothly 😄 

> (Probably it would work with vector-valued functions too, but that would be more awkward to formulate. I managed to get the proof working for f valued in an RCLike 𝕜 and c valued in a general normed 𝕜-vector space, modulo one sorry since IntervalIntegrable.smul_const doesn't exist; but the asymmetry is annoying, why should it be c that is vector-valued and not f?)

Do you think this kind of generalization would be interesting?

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 4]
```diff
@@ -0,0 +1,174 @@
...
+      (_ : Set.uIcc t₁ t₂ ⊆ Set.Icc a b),
+      IntervalIntegrable (fun t ↦ deriv f t * (∑ k ∈ Icc 0 ⌊t⌋₊, c k)) volume t₁ t₂ := by
+    refine fun t₁ t₂ n ht₁ ht₂ ↦ ((hf_int.mul_const (∑ k ∈ Icc 0 n, c k)).mono_set
+      ((Set.uIcc_of_le (by linarith : a ≤ b)) ▸ ht₂)).congr ?_
+    refine ae_restrict_of_ae_restrict_of_subset ht₁ <| (ae_restrict_iff' measurableSet_Icc).mpr ?_
+    filter_upwards [h_sumlocc n] with t ht₁ ht₂ using by rw [ht₁ ht₂]
+  have h_int : IntervalIntegrable (fun t ↦ deriv f t * (∑ k ∈ Icc 0 ⌊t⌋₊, c k)) volume a b := by
+    refine (h_locint a (⌊a⌋₊ + 1 : ℕ) ⌊a⌋₊ ?_ ?_).trans <|
+      (trans_iterate_Ico hb fun k hk ↦ h_locint k _ k ?_ ?_).trans (h_locint ⌊b⌋₊ b ⌊b⌋₊ ?_ ?_)
+    · rw [Nat.cast_add_one, Set.uIoc_of_le (by linarith)]
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean:90]: I don't know about that... At first, I started to provide an explicit proof for all of these but it made the code very cumbersome and it was very tedious. Then I realized that all of these statements were very similar and could be deduced easily for a some basic inequalities and that `linarith` was perfect for that. 

I think these calls to `linarith` are very fast and illustrate the fact that all these little technical proofs do not deserve to spend any effort on them

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/AbelSummation.lean:11]: > Do you think this kind of generalization would be interesting?

I don't have a particular application in mind, no. It's only worth doing if it's essentially free (which I think is not true).

Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean:11]: Well, it will be for a future refactor then

**Comment by loefflerd** [comment]
Some comments on your proof.
- It's not much fun for authors, reviewers, or future editors to work on proofs of > 100 lines, because the tiniest edit causes the whole proof to recompile. Is there a way to extract some steps as separate lemmas (maybe flagged `private`)?
- You convert between ordered and un-ordered intervals **25 times** in this proof: 19 uses of `uIcc_of_le` and 6 more for the `Ioc` version. Are you sure there isn't a way of avoiding some of these conversions? As far as I can tell, for every `uIoc x y` or `uIcc x y` which appears in your argument, we always know straight away that `x ≤ y`; so why work with unordered intervals at all?
- `linarith` is an amazing tactic, but it can't see through the definition of intervals (ordered or unordered). Perhaps you could formulate `h_integ` and `h_locint` slightly differently, replacing the interval inclusions with explicitly-written inequalities, so that the proofs of the hypotheses could literally be `by linarith`?

**Comment by xroblot** [comment]
Thanks for the comments. I'm going to be quite busy in the next few days but I'll find some time to improve the proof soon.

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 5]
```diff
@@ -0,0 +1,173 @@
...
+    filter_upwards [sumlocc c n] with t h h' using by rw [h (h_inc₁ h')]
+  · refine (intervalIntegrable_iff_integrableOn_Icc_of_le h).mpr (hf_int.mono_set ?_)
+    rwa [← Set.uIcc_of_le h]
+
+private theorem ineqofmemIco {k : ℕ} (hk : k ∈ Set.Ico (⌊a⌋₊ + 1) ⌊b⌋₊) :
+    a ≤ k ∧ k + 1 ≤ b := by
+  constructor
+  · have := (Nat.succ_eq_add_one _) ▸ (Set.mem_Ico.mp hk).1
+    exact le_of_lt <| (Nat.floor_lt' (by linarith)).mp this
+  · rw [← Nat.cast_add_one, ← Nat.le_floor_iff' (by linarith)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:62]:
```suggestion
  · have := (Set.mem_Ico.mp hk).1
    exact le_of_lt <| (Nat.floor_lt' (by omega)).mp this
  · rw [← Nat.cast_add_one, ← Nat.le_floor_iff' (Nat.succ_ne_zero k)]
```
(faster)

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 6]
```diff
@@ -0,0 +1,173 @@
...
+    exact (Set.mem_Ico.mp hk).2
+
+private theorem ineqofmemIco' {k : ℕ} (hk : k ∈ Ico (⌊a⌋₊ + 1) ⌊b⌋₊) :
+    a ≤ k ∧ k + 1 ≤ b := ineqofmemIco (by rwa [← Finset.coe_Ico])
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:66]:
```suggestion
    a ≤ k ∧ k + 1 ≤ b := 
  ineqofmemIco (by rwa [← Finset.coe_Ico])
```

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 7]
```diff
@@ -0,0 +1,173 @@
...
+
+private theorem integrablemulsum (ha : 0 ≤ a) (hb : ⌊a⌋₊ < ⌊b⌋₊)
+  (hf_int : IntegrableOn (deriv f) (Set.Icc a b)) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:69]:
```suggestion
    (hf_int : IntegrableOn (deriv f) (Set.Icc a b)) :
```

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+    any_goals exact Nat.floor_le (by positivity)
+    any_goals exact (Nat.lt_floor_add_one _).le
+    any_goals linarith
+  intro _ _ n h h₁ h₂ h₃ h₄
+  rw [intervalIntegrable_iff_integrableOn_Icc_of_le h]
+  exact (IntegrableOn.mono_set (hf_int.mul_const (∑ k ∈ Icc 0 n, c k))
+    (Set.Icc_subset_Icc h₃ h₄)).congr
+      <| ae_restrict_of_ae_restrict_of_subset
+        (Set.Icc_subset_Icc h₁ h₂) <| (ae_restrict_iff' measurableSet_Icc).mpr
+          (by filter_upwards [sumlocc c n] with t h ht using by rw [h ht])
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:94]: I'm personally not so keen on the repeated use of `any_goals`. Some of the goals you are passing to `linarith` are utterly trivial (one of them is `b ≤ b`, for example); I think these should be dealt with as they arise (using `le_rfl`).

Here's my suggested alternative for this proof. It's actually a tiny bit longer than yours, but it compiles more than twice as fast, and I hope it's a bit more obvious how the pieces fit together in a way that might make it more maintainable in future (i.e. more robust against changes elsewhere in the library):

```suggestion
private theorem integrablemulsum (ha : 0 ≤ a) (hb : ⌊a⌋₊ < ⌊b⌋₊)
  (hf_int : IntegrableOn (deriv f) (Set.Icc a b)) :
    IntegrableOn (fun t ↦ deriv f t * (∑ k ∈ Icc 0 ⌊t⌋₊, c k)) (Set.Icc a b) := by
  have h_locint {t₁ t₂ : ℝ} {n : ℕ} (h : t₁ ≤ t₂) (h₁ : n ≤ t₁) (h₂ : t₂ ≤ n + 1)
      (h₃ : a ≤ t₁) (h₄ : t₂ ≤ b) :
      IntervalIntegrable (fun t ↦ deriv f t * (∑ k ∈ Icc 0 ⌊t⌋₊, c k)) volume t₁ t₂ := by
    rw [intervalIntegrable_iff_integrableOn_Icc_of_le h]
    exact (IntegrableOn.mono_set (hf_int.mul_const _) (Set.Icc_subset_Icc h₃ h₄)).congr
      <| ae_restrict_of_ae_restrict_of_subset (Set.Icc_subset_Icc h₁ h₂)
        <| (ae_restrict_iff' measurableSet_Icc).mpr
          (by filter_upwards [sumlocc c n] with t h ht using by rw [h ht])
  -- We prove some inequalities to be used later on
  have aux1 : 0 ≤ b := (Nat.pos_of_floor_pos <| (Nat.zero_le _).trans_lt hb).le
  have aux2 : ⌊a⌋₊ + 1 ≤ b := by rwa [← Nat.cast_add_one, ← Nat.le_floor_iff aux1]
  have aux3 : a ≤ ⌊a⌋₊ + 1 := (Nat.lt_floor_add_one _).le
  have aux4 : a ≤ ⌊b⌋₊ := le_of_lt (by rwa [← Nat.floor_lt ha])
  -- now break up into 3 subintervals
  rw [← intervalIntegrable_iff_integrableOn_Icc_of_le (aux3.trans aux2)]
  have I1 : IntervalIntegrable _ volume a ↑(⌊a⌋₊ + 1) :=
    h_locint (mod_cast aux3) (Nat.floor_le ha) (mod_cast le_rfl) le_rfl (mod_cast aux2)
  have I2 : IntervalIntegrable _ volume ↑(⌊a⌋₊ + 1) ⌊b⌋₊ :=
    trans_iterate_Ico hb fun k hk ↦ h_locint (mod_cast k.le_succ)
      le_rfl (mod_cast le_rfl) (ineqofmemIco hk).1 (mod_cast (ineqofmemIco hk).2)
  have I3 : IntervalIntegrable _ volume ⌊b⌋₊ b :=
    h_locint (Nat.floor_le aux1) le_rfl (Nat.lt_floor_add_one _).le aux4 le_rfl
  exact (I1.trans I2).trans I3
```

**Review by loefflerd — COMMENTED** [review]
Thanks for revising this! I think it's a lot better now. Here are some comments – I didn't have time to look at the "main" proof, I hope I should have some time look at it tomorrow.

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+    -- Now, we just need to check all the technical conditions
+    any_goals linarith
+    any_goals
+      (rw [intervalIntegrable_iff_integrableOn_Icc_of_le (by linarith)];
+        exact (integrablemulsum c ha hb hf_int).mono_set <|
+          (Set.Icc_subset_Icc_iff (by linarith)).mpr ⟨by linarith, by linarith⟩)
+    · refine fun k hk ↦ (intervalIntegrable_iff_integrableOn_Icc_of_le (by simp)).mpr
+        <| (integrablemulsum c ha hb hf_int).mono_set <|
+          (Set.Icc_subset_Icc_iff (by simp)).mpr ⟨?_, ?_⟩
+      all_goals simp [ineqofmemIco hk]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/AbelSummation.lean:141]: Here's a version which compiles 3.5x quicker, at the cost of slightly less automation:
```suggestion
/-- Abel's summation formula. -/
theorem _root_.sum_mul_eq_sub_sub_integral_mul (ha : 0 ≤ a) (hab : a ≤ b)
    (hf_diff : ∀ t ∈ Set.Icc a b, DifferentiableAt ℝ f t)
    (hf_int : IntegrableOn (deriv f) (Set.Icc a b)) :
    ∑ k ∈ Ioc ⌊a⌋₊ ⌊b⌋₊, f k * c k =
      f b * (∑ k ∈ Icc 0 ⌊b⌋₊, c k) - f a * (∑ k ∈ Icc 0 ⌊a⌋₊, c k) -
        ∫ t in a..b, deriv f t * (∑ k ∈ Icc 0 ⌊t⌋₊, c k) := by
  -- We prove some inequalities to be used later on by linarith
  have aux1 : ⌊a⌋₊ ≤ a := Nat.floor_le ha
  have aux2 : b ≤ ⌊b⌋₊ + 1 := (Nat.lt_floor_add_one _).le
  -- We consider two cases depending on whether the sum is empty or not
  obtain hb | hb := eq_or_lt_of_le (Nat.floor_le_floor hab)
  · rw [hb, Ioc_eq_empty_of_le le_rfl, sum_empty, ← sub_mul,
      integralmulsum c hf_diff hf_int _ _ ⌊b⌋₊ hab (hb ▸ aux1) aux2 le_rfl le_rfl, sub_self]
  -- Some more inequalities for linarith
  have aux3 : a ≤ ⌊a⌋₊ + 1 := (Nat.lt_floor_add_one _).le
  have aux4 : ⌊a⌋₊ + 1 ≤ b := by rwa [← Nat.cast_add_one,  ← Nat.le_floor_iff (ha.trans hab)]
  have aux5 : ⌊b⌋₊ ≤ b := Nat.floor_le (ha.trans hab)
  have aux6 : a ≤ ⌊b⌋₊ := Nat.floor_lt ha |>.mp hb |>.le
  simp_rw [← smul_eq_mul, sum_Ioc_by_parts (fun k ↦ f k) _ hb, range_eq_Ico, Nat.Ico_succ_right,
    smul_eq_mul]
  have : ∑ k ∈ Ioc ⌊a⌋₊ (⌊b⌋₊ - 1), (f ↑(k + 1) - f k) * ∑ n ∈ Icc 0 k, c n =
        ∑ k ∈ Ico (⌊a⌋₊ + 1) ⌊b⌋₊, ∫ t in k..↑(k + 1), deriv f t * ∑ n ∈ Icc 0 ⌊t⌋₊, c n := by
    rw [← Nat.Ico_succ_succ, Nat.succ_eq_add_one,  Nat.succ_eq_add_one, Nat.sub_add_cancel
      (by omega), Eq.comm]
    exact sum_congr rfl fun k hk ↦ (integralmulsum c hf_diff hf_int _ _ _  (mod_cast k.le_succ)
      le_rfl (mod_cast le_rfl) (ineqofmemIco' hk).1 <| mod_cast (ineqofmemIco' hk).2)
  rw [this, sum_integral_adjacent_intervals_Ico hb, Nat.cast_add, Nat.cast_one,
    ← integral_interval_sub_left (a := a) (c := ⌊a⌋₊ + 1),
    ← integral_add_adjacent_intervals (b := ⌊b⌋₊) (c := b),
    integralmulsum c hf_diff hf_int _ _ _ aux3 aux1 le_rfl le_rfl aux4,
    integralmulsum c hf_diff hf_int _ _ _ aux5 le_rfl aux2 aux6 le_rfl]
  · ring
  -- now deal with the integrability side goals
  -- (Note we have 5 goals, but the 1st and 3rd are identical. TODO: find a non-hacky way of dealing
  -- with both at once.)
  · rw [intervalIntegrable_iff_integrableOn_Icc_of_le aux6]
    exact (integrablemulsum c ha hb hf_int).mono_set (Set.Icc_subset_Icc_right aux5)
  · rw [intervalIntegrable_iff_integrableOn_Icc_of_le aux5]
    exact (integrablemulsum c ha hb hf_int).mono_set (Set.Icc_subset_Icc_left aux6)
  · rw [intervalIntegrable_iff_integrableOn_Icc_of_le aux6]
    exact (integrablemulsum c ha hb hf_int).mono_set (Set.Icc_subset_Icc_right aux5)
  · rw [intervalIntegrable_iff_integrableOn_Icc_of_le aux3]
    exact (integrablemulsum c ha hb hf_int).mono_set (Set.Icc_subset_Icc_right aux4)
  · exact fun k hk ↦ (intervalIntegrable_iff_integrableOn_Icc_of_le (mod_cast k.le_succ)).mpr
      <| (integrablemulsum c ha hb hf_int).mono_set
        <| (Set.Icc_subset_Icc_iff (mod_cast k.le_succ)).mpr <| mod_cast (ineqofmemIco hk)
```
Most of the speedup comes from 2 things: firstly, `all_goals`, `any_goal` etc can take a while to fail on goals that don't fit, particularly if the goal (and tactic block) are complicated; secondly, `linarith` isn't all that good at recognising _fast_ if the goal is already in the context, which is actually true for every single one of the `linarith` calls in this proof as written.

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 8 above)
Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean]: Yes, I agree that your version is cleaner and today I learned about `mod_cast` which is really helpful here.

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 9 above)
Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean]: When I started this proof, I found out there was many technical side conditions that needed to be checked and it was getting a bit cumbersome, thus I decided to see if it was possible to just postponed them all and try to close them automatically at the end with some tactic. I guess I went a bit overboard and ended up solving trivial facts using `linearity`. I did notice in the end that the proof was getting a bit slow. 

Anyway, thanks for the improvements!

**Comment by loefflerd** [comment]
I think the code looks good now. One last tiny thing: the comment "we prove some inequalities to be used by linarith" is no longer accurate – can you update it? Sorry, I missed this earlier.

maintainer delegate

**Comment by xroblot** [comment]
> I think the code looks good now. One last tiny thing: the comment "we prove some inequalities to be used by linarith" is no longer accurate – can you update it? Sorry, I missed this earlier.

I removed the comments. Thanks again for the review!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
